US08664258B2
Step C: Preparation of 2,2-Difluoro-benzo[1,3]dioxole-5-carboxylic acid [4-((S)-2-amino-propoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide (Compound 191)
To a solution of tert-butyl(S)-1-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)propan-2-ylcarbamate (40.0 mg, 115 μmol) in DCM was added 2,2-difluorobenzo[d][1,3]dioxole-5-carbonyl chloride (28.0 mg, 127 μmol) followed by TEA (32.2 μl, 231 μmol). The reaction was mixed in a rotary shaker at 25° C. for 1 hour then quenched with MeOH (100 μl). After mixing for 20 minutes TFA (400 μl) was added and the resulting mixture was heated to 40° C. and mixed for 1 hour. The organic solvent was removed under vacuum; the crude residue was dissolved in acetonitrile (0.5 mL), neutralized with saturated bicarbonate and subjected to purification by preparative LCMS. The proper fractions were pooled, frozen and lyophilized to afford the title compound as an off white solid (16.7% yield). LCMS m/z=431.3 (M+H); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16 (d, J=6.82 Hz, 3 H), 3.48-3.58 (m, 1 H), 3.71 (s, 3 H), 3.99-4.08 (m, 2 H), 6.36 (d, J=1.77 Hz, 1 H), 7.25 (d, J=9.09 Hz, 1 H), 7.50 (d, J=1.77 Hz, 1 H), 7.60 (d, J=8.59 Hz, 1 H), 7.71 (d, J=2.53 Hz, 2 H), 7.82-7.91 (m, 2 H), 10.35 (s, 1 H).

reactant | tert-butyl(S)-1-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)propan-2-ylcarbamate | 115 μmol, 40.0 mg | NC1=CC(=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C18H26N4O3
reactant | 2,2-difluorobenzo[d][1,3]dioxole-5-carbonyl chloride | 127 μmol, 28.0 mg | FC1(OC2=C(O1)C=CC(=C2)C(=O)Cl)F | C8H3ClF2O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2,2-Difluoro-benzo[1,3]dioxole-5-carboxylic acid [4-((S)-2-amino-propoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide | N[C@H](COC1=C(C=C(C=C1)NC(=O)C1=CC2=C(OC(O2)(F)F)C=C1)C=1N(N=CC1)C)C | C21H20F2N4O4
